US07625950B2
To a solution of 4-[2-(4-hydroxymethyl-2-methyl-4,5-dihydro-oxazol-4-yl)-ethyl]-phenol (300 mg, 1.27 mmol) in DMF (5 ml) was added Cs2CO3 (1.2 g, 3.83 mmol) and (3-bromo-propoxy)-benzene (273 mg, 1.27 mmol). The reaction mixture was stirred at 85° C. for 4 hours. AcOEt and water were then added, the organic layer was separated and the aqueous phase was extracted with AcOEt (3×50 ml). The combined organic extracts were washed with brine, dried over MgSO4, and evaporated to dryness. Purification by flash chromatography (AcOEt/Hexane 9:1) affords (2-methyl-4-{2-[4-(3-phenoxy-propoxy)-phenyl]-ethyl}-4,5-dihydro-oxazol-4-yl)-methanol as colorless oil. To a solution of (2-methyl-4-{2-[4-(3-phenoxy-propoxy)-phenyl]-ethyl}-4,5-dihydro-oxazol-4-yl)-methanol (50 mg, 0.135 mmol) in ethanol (2 ml) was added conc. HCl (2 ml). The reaction mixture was stirred at 85° C. for 2 hours, then concentrated to dryness. The residue was re-dissolved in AcOEt and precipitated with hexanes. The solid was filtered off, washed with dry ether and dried in vacuo to afford 2-amino-2-{2-[4-(3-phenoxy-propoxy)-phenyl]-ethyl}-propane-1,3-diol hydro-chloride as a colorless powder. ESI+ MS: m/z=370.4 (M+H)+.

reactant | 4-[2-(4-hydroxymethyl-2-methyl-4,5-dihydro-oxazol-4-yl)-ethyl]-phenol | 1.27 mmol, 300 mg | OCC1(N=C(OC1)C)CCC1=CC=C(C=C1)O | C13H17NO3
reactant | Cs2CO3 | 3.83 mmol, 1.2 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | (3-bromo-propoxy)-benzene | 1.27 mmol, 273 mg | BrCCCOC1=CC=CC=C1 | C9H11BrO
reactant | AcOEt | CCOC(=O)C | C4H8O2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (2-methyl-4-{2-[4-(3-phenoxy-propoxy)-phenyl]-ethyl}-4,5-dihydro-oxazol-4-yl)-methanol | CC=1OCC(N1)(CCC1=CC=C(C=C1)OCCCOC1=CC=CC=C1)CO | C22H27NO4
